US05010059
(a) Diethyl tetradecane-1-phosphonate
100 g (590 mmol) of triethyl phosphite and 164 g (590 mmol) of 1-bromotetradecane are heated on a column connected to a descending condenser. Bromoethane distills out at a bath temperature of 170° C.; the mixture is then distilled under high vacuum, resulting in the product of boiling point 145° C./0.03 mmHg which is pure by 1H NMR.

reactant | triethyl phosphite | 590 mmol, 100 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 1-bromotetradecane | 590 mmol, 164 g | BrCCCCCCCCCCCCCC | C14H29Br
product | Diethyl tetradecane-1-phosphonate | C(CCCCCCCCCCCCC)P(OCC)(=O)OCC | C18H39O3P
